US06900353B2
Preparation of [2-(4-Fluorophenyl)-2-hydroxycyclopentyl][(methylethyl)sulfonyl]amine
Scheme IA, step D: Into a flame dried 100 mL 3 neck flask that was fitted with a thermometer and condenser, 2-{[(methylethyl)sulfonyl]amino}cyclopentan-1-one (1.10 g, 5.36 mmol) in THF (25 mL) was added dropwise to 4-fluorophenylmagnesium bromide (3 mL, 2M solution in diethyl ether) while stirring at room temperature under a nitrogen atmosphere and keeping the temperature above 25° C. After the addition was complete, the reaction was refluxed for 2 hours and then stirred overnight at room temperature. In the morning, enough saturated ammonium chloride in water was added to precipitate the salts and the organic layer was decanted off. The remaining salts were washed two times with ether and the combined organic layers were concentrated under reduced vacuum. The resulting material was taken into ethyl acetate, washed once with water, dried over potassium carbonate, filtered, and concentrated under reduced vacuum to yield 930 mg of a dark oil. This isomeric mixture was purified via silica gel chromatography employing the Chromatotron® and using a 4000 micron rotor while eluting with a solvent of hexane/ethyl acetate 7:3 to provide the title compound (787 mg, 49%) as an oil. Ion Spray M.S. 300.1 (M*−1). Calculated for C14H20NO3SF—½H2O: Theory: C, 54.16; H, 6.82; N, 4.51. Found: C, 54.39; H, 6.61; N, 4.69.

reactant | 2-{[(methylethyl)sulfonyl]amino}cyclopentan-1-one | 5.36 mmol, 1.10 g | CC(C)S(=O)(=O)NC1C(CCC1)=O | C8H15NO3S
reactant | 4-fluorophenylmagnesium bromide | 2M, 3 mL | FC1=CC=C(C=C1)[Mg]Br
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | THF | 25 mL | C1CCOC1 | C4H8O
solvent | water | O | H2O
product | [2-(4-Fluorophenyl)-2-hydroxycyclopentyl][(methylethyl)sulfonyl]amine | 930 mg | FC1=CC=C(C=C1)C1(C(CCC1)NS(=O)(=O)C(C)C)O | C14H20FNO3S
